US08247403B2
(3) 9-(2-methylpropyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2-methylpropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (260 mg, 0.937 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (192 mg, 93.7%) as a solid.

reactant | tert-butyl 9-(2-methylpropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.937 mmol, 260 mg | CC(CC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)C | C18H27NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2-methylpropyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 192 mg, 93.7% | Cl.CC(CC1=CC=CC=2CNCCOC21)C | InChI=1S/C13H19NO.ClH/c1-10(2)8-11-4-3-5-12-9-14-6-7-15-13(11)12;/h3-5,10,14H,6-9H2,1-2H3;1H
